US05278180
Using the procedure of Step A of Example 1, 13 g of N-(4-methoxyphenyl)-3-nitrobenzamide prepared as in Step A of Example 1 and melting at 170° C. and 40 ml of thionyl chloride were reacted at reflux for 12 hours to obtain 14.5 g of N-(4-methoxyphenyl)-3-nitrobenzene-carboximidoyl chloride melting at 108° C.

reactant | N-(4-methoxyphenyl)-3-nitrobenzamide | 13 g | COC1=CC=C(C=C1)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C14H12N2O4
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | N-(4-methoxyphenyl)-3-nitrobenzene-carboximidoyl chloride | 14.5 g | COC1=CC=C(C=C1)N=C(C1=CC(=CC=C1)[N+](=O)[O-])Cl | C14H11ClN2O3
